US08540782B2
quaternized vinylpyrrolidone/dimethylaminopropylmethacrylamide copolymers such as the product sold under the name GAFQUAT HS100 by the company ISP, and crosslinked polymers of methacryloyloxy(C1-C4)alkyltri(C1-C4)alkylammonium salts such as the polymers obtained by homopolymerization of dimethylaminoethyl methacrylate quaternized with methyl chloride, or by copolymerization of acrylamide with dimethylaminoethyl methacrylate quaternized with methyl chloride, the homo- or copolymerization being followed by crosslinking with a compound containing olefinic unsaturation, such as methylenebisacrylamide. In at least one embodiment, a crosslinked acrylamide/methacryloyloxyethyltrimethylammonium chloride copolymer (20/80 by weight) in the form of a dispersion containing 50% by weight of the copolymer in mineral oil can be used. This dispersion is sold under the name SALCARE® SC 92 by the company Ciba. In some embodiments, a crosslinked methacryloyloxyethyltrimethylammonium chloride homopolymer containing about 50% by weight of the homopolymer in mineral oil or in a liquid ester can be used. These dispersions are sold under the names SALCARE® SC 95 and SALCARE® SC 96 by the company Ciba.

reactant | vinylpyrrolidone dimethylaminopropylmethacrylamide | C(=C)N1C(CCC1)=O.CN(C)CCCC=C(C(=O)N)C
reactant | GAFQUAT HS100 | CC(=C)C(=O)NCCC[N+](C)(C)C.C=CN1CCCC1=O.[Cl-]
product | dimethylaminoethyl methacrylate | C(C(=C)C)(=O)OCCN(C)C | C8H15NO2
